datasets/RMG-dataset.csv
rxn,Ea
[C:4]([H:5])([H:6])[H:7].[N:0](=[C:1]=[O:2])[H:3]>>[H:3][C:4]([H:5])([H:6])[H:7].[N:0]=[C:1]=[O:2],56.2037
[C:0](#[C:1][C:2](=[C:3]([C:4]#[C:5][H:9])[H:8])[H:7])[H:6].[C:10]([C:11]([H:14])([H:15])[H:16])([H:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]([C:4]#[C:5][H:9])[H:8])([H:7])[C:10]([C:11]([H:14])([H:15])[H:16])([H:12])[H:13])[H:6],11.1294
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[H:7])[H:6])[H:5].[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])[C:14]([H:21])([H:22])[H:23])([H:15])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])([H:7])[C:12]([C:11]([H:15])([H:16])[H:17])([C:13]([H:18])([H:19])[H:20])[C:14]([H:21])([H:22])[H:23])[H:6])[H:5],2.80328
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6](=[C:7][C:8](=[C:9]([H:13])[H:14])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][C:7](=[C:6]([H:10])[H:11])[C:8](=[C:9]([H:13])[H:14])[H:12],57.7392
[C:0]([C:1](=[O:2])[O:3][O:4][H:8])([H:5])([H:6])[H:7].[O:9][O:10][H:11]>>[C:0]([C:1](=[O:2])[O:3][O:4])([H:5])([H:6])[H:7].[H:8][O:9][O:10][H:11],42.701904
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])[H:8])[H:7].[C:15]([C:16]([c:17]1[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]1[H:31])[H:26])([H:23])([H:24])[H:25]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])([C:5](=[C:6]([H:13])[H:14])[H:12])[C:16]([C:15]([H:23])([H:24])[H:25])([c:17]1[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]1[H:31])[H:26])[H:8])[H:7],34.0159
[C:0]([C:1]([N:2]([H:8])[H:9])([H:6])[H:7])([H:3])([H:4])[H:5].[C:10]([H:11])([H:12])[H:13]>>[C:0]([C:1]([N:2][H:9])([H:6])[H:7])([H:3])([H:4])[H:5].[H:8][C:10]([H:11])([H:12])[H:13],39.501144
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:5])[H:6].[C:15]([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([C:4]([H:12])([H:13])[H:14])[H:11])([H:5])[H:6].[H:10][C:15]([H:16])([H:17])[H:18],16.744368
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]=[C:5]([H:10])[H:11])[H:6].[C:12](#[C:13][C:14]([C:15]([H:18])([H:19])[H:20])[C:16]([H:21])([H:22])[H:23])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]=[C:5]([H:10])[H:11])[C:14]([C:13]#[C:12][H:17])([C:15]([H:18])([H:19])[H:20])[C:16]([H:21])([H:22])[H:23])[H:6],46.2332
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:14])([H:15])[H:16])[C:6]([H:17])([H:18])[H:19])([H:12])[H:13])([H:10])[H:11])[H:9])([H:7])[H:8]>>[C:0]([C:1]1([H:9])[C:2]([H:10])([H:11])[C:3]([H:12])([H:13])[C:4]1([C:5]([H:14])([H:15])[H:16])[C:6]([H:17])([H:18])[H:19])([H:7])[H:8],70.2075
[C:0]([C:1]([O:2][O:3][H:12])([C:4]([O:5][H:14])([O:6][O:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]([O:2][O:3][H:12])([C:4]([O:5][H:14])([O:6][O:7][H:8])[H:13])[H:11])([H:9])[H:10],91.4204
[C:0]([C:1]([O:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[C:9]([O:10][O:11])([H:12])([H:13])[H:14]>>[C:0]([C:1]([O:2][H:8])([H:6])[H:7])([H:4])[H:5].[H:3][O:11][O:10][C:9]([H:12])([H:13])[H:14],64.153272
[C:0]([C:1]([C:2]([C:3]([O:4][H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[O:15][H:16]>>[C:0]([C:1]([C:2]([C:3]([O:4][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])([H:5])([H:6])[H:7].[H:8][O:15][H:16],-10.2173
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[c:8]1[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]1[H:18]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][c:8]1[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]1[H:18],-5.8576
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7](=[C:8]([C:9]=[S:10])[H:13])([H:11])[H:12]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])[H:4].[H:3][C:9]([C:8](=[C:7]([H:11])[H:12])[H:13])=[S:10],63.5968
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10]=[S:11])([H:12])([H:13])[H:14]>>[C:0](=[C:1][C:2]([H:6])([H:7])[H:8])([H:3])[H:4].[H:5][C:10]([C:9]([H:12])([H:13])[H:14])=[S:11],62.3416
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([O:4][C:5]([H:11])([H:12])[H:13])[H:7])[H:6].[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6].[O:4]([C:5]([H:11])([H:12])[H:13])[H:14],76.1191
[C:0]([C:1](=[C:2]([C:3]([H:19])([H:20])[H:21])[c:4]1[c:5]([H:22])[c:6]([H:23])[c:7]([H:24])[c:8]([H:25])[c:9]1[H:26])[c:10]1[c:11]([H:27])[c:12]([H:28])[c:13]([H:29])[c:14]([H:30])[c:15]1[H:31])([H:16])([H:17])[H:18].[C:32]([C:33]([c:34]1[c:35]([H:44])[c:36]([H:45])[c:37]([H:46])[c:38]([H:47])[c:39]1[H:48])[H:43])([H:40])([H:41])[H:42]>>[C:0]([C:1]([C:2]([C:3]([H:19])([H:20])[H:21])[c:4]1[c:5]([H:22])[c:6]([H:23])[c:7]([H:24])[c:8]([H:25])[c:9]1[H:26])([c:10]1[c:11]([H:27])[c:12]([H:28])[c:13]([H:29])[c:14]([H:30])[c:15]1[H:31])[C:33]([C:32]([H:40])([H:41])[H:42])([c:34]1[c:35]([H:44])[c:36]([H:45])[c:37]([H:46])[c:38]([H:47])[c:39]1[H:48])[H:43])([H:16])([H:17])[H:18],48.0742
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[S:4])[H:12])[H:8])([H:5])([H:6])[H:7].[C:13](=[C:14]([H:16])[H:17])[H:15]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[C:3](=[S:4])[H:12])([H:5])([H:6])[H:7].[H:8][C:13](=[C:14]([H:16])[H:17])[H:15],-17.1544
